US06277849B1
21.1 g of (S)-2-(ethylsulfonylamino)-3-methyl-butyric acid and 12 ml of N-methylmorpholine in 450 ml of tetrahydrofuran are cooled, with stirring, to −20° C. 13.2 ml of isobutyl chloroformate are added dropwise thereto over a period of 10 minutes. The reaction mixture is then stirred at −10° C. for 1 hour. The mixture is again cooled to −20° C., and a solution of 26.1 g of 2-(4-benzyloxy-3-methoxyphenyl)-ethylamine in 100 ml of tetrahydrofuran is added dropwise thereto over a period of 20 minutes. The reaction mixture is then stirred, without cooling, for 4 hours, the internal temperature gradually rising to room temperature. The reaction mixture is then introduced into 400 ml of 2N hydrochloric acid. Extraction is carried out twice using 500 ml of ethyl acetate each time. The organic phases are washed once with 250 ml of 2N hydrochloric acid, once with 250 ml of saturated sodium chloride solution, twice using 250 ml of 2N potassium hydrogen carbonate solution each time and once with 250 ml of saturated sodium chloride solution, dried over magnesium sulfate and concentrated, yielding (S)-2-(ethylsulfonylamino)-3methyl-butyric acid N-[2-(4-benzyloxy-3-methoxy-phenyl)-ethyl]-amide, m.p. 140-142° C., which can be purified further by digestion in 200 ml of tert-butyl methyl ether.

reactant | (S)-2-(ethylsulfonylamino)-3-methyl-butyric acid | 21.1 g | C(C)S(=O)(=O)N[C@H](C(=O)O)C(C)C | C7H15NO4S
reactant | N-methylmorpholine | 12 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 13.2 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-(4-benzyloxy-3-methoxyphenyl)-ethylamine | 26.1 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCN)OC | C16H19NO2
reactant | hydrochloric acid | 2N, 400 ml | Cl | ClH
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (S)-2-(ethylsulfonylamino)-3methyl-butyric acid N-[2-(4-benzyloxy-3-methoxy-phenyl)-ethyl]-amide | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCNC([C@H](C(C)C)NS(=O)(=O)CC)=O)OC | C23H32N2O5S
